US07067517B2
Methyl-phenyl-carbamic acid 5,6,7,8-tetrahydro-naphthalen-1-yl ester
The title product was prepared from 5,6,7,8-tetrahydro-1-naphthol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (42%, colorless oil). HPLC-MS: m/z=282.1 (M+1); Rt: 4.77 min.

reactant | 5,6,7,8-tetrahydro-1-naphthol | C1(=CC=CC=2CCCCC12)O | C10H12O
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 5,6,7,8-tetrahydro-naphthalen-1-yl ester | C1(=CC=CC=2CCCCC12)OC(N(C1=CC=CC=C1)C)=O | C18H19NO2
